US05500406
1.3 g (11.4 mmol) of 2-amino-6H-1,3-thiazine was dissolved in 4 ml of dimethylformamide, and 2.4 g (14.1 mmol) of n-propyl iodide was added thereto. The mixture was heated at 50° C. for one hour and then stirred at room temperature overnight. To the reaction solution, 100 ml of ethyl acetate was added, and the mixture was stirred and then left to stand still. Then, the ethyl acetate layer was separated and removed by decantation. Then, the residual oily substance was dissolved in 50 ml of methanol, and 30 ml of a methanol solution containing 0.75 g (11.4 mmol) of 85% potassium hydroxide, was added thereto at room temperature. The mixture was further stirred at the same temperature for one hour, and then methanol was distilled off under reduced pressure. To the residue, 60 ml of chloroform was added, and insoluble matters were removed by filtration. Then, the filtrate was concentrated under reduced pressure. The residual oily substance was purified by alumina column chromatography (eluent: chloroform) to obtain 0.4 g of 3,6-dihydro-3-n-propyl-2H-1,3-thiazin-2-imine as an oily substance.

reactant | 2-amino-6H-1,3-thiazine | 11.4 mmol, 1.3 g | NC=1SCC=CN1 | C4H6N2S
reactant | n-propyl iodide | 14.1 mmol, 2.4 g | C(CC)I | C3H7I
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | potassium hydroxide | 11.4 mmol, 0.75 g | [OH-].[K+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | methanol | 30 ml | CO | CH4O
product | 3,6-dihydro-3-n-propyl-2H-1,3-thiazin-2-imine | 0.4 g | C(CC)N1C(SCC=C1)=N | C7H12N2S
